US04557871
In 100 ml of ethanol was dissolved 3 g of 2-(3-fluoro-4-nitrophenyl)propionic acid. To the solution was added 0.25 g of 5% palladium on charcoal to conduct catalytic hydrogenation. The catalyst was filtered off and the solvent was evaporated off under reduced pressure to afford 2.55 g of 2-(4-amino-3-fluorophenyl)propionic acid as an oily substance.

reactant | 2-(3-fluoro-4-nitrophenyl)propionic acid | 3 g | FC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)O)C | C9H8FNO4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
product | 2-(4-amino-3-fluorophenyl)propionic acid | 2.55 g | NC1=C(C=C(C=C1)C(C(=O)O)C)F | C9H10FNO2
